US07375134B2
To a stirred solution of the 5,5,5-trifluoro-L-leucine (12 g) in H2O (150 mL) at 0° C. was added benzyl chloroformate (4.8 mL, 34 mol), followed by dropwise addition of 1 M aqueous NaOH (120 mL, 120 mmol). More benzyl chloroformate (4.8 mL, 34 mmol) was added. The mixture was further stirred at 0° C. and the pH of the mixture became ˜7. The mixture was washed with Et2O (2×) and acidified with aqeous HCl. The aqueous layer was extracted with EtOAc (3×), dried (Na2SO4) and concentrated in vacuo to provide N-[(benzyloxy)carbonyl]-5,5,5-trifluoro-L-leucine. The crude acid was dissolved in Et2O and treated with a solution of diazomethane in Et2O. Chromatography over silica gel and elution with hexanes:Et2O (7:3) gave methyl (4S)-N-[(benzyloxy)carbonyl]-5,5,5-trifluoro-L-leucinate as the less polar fraction.

reactant | 5,5,5-trifluoro-L-leucine | 12 g | FC(C(C[C@H](N)C(=O)O)C)(F)F | C6H10F3NO2
reactant | benzyl chloroformate | 34 mol, 4.8 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | NaOH | 120 mmol, 1 M, 120 mL | [OH-].[Na+]
reactant | benzyl chloroformate | 34 mmol, 4.8 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | H2O | 150 mL | O | H2O
product | N-[(benzyloxy)carbonyl]-5,5,5-trifluoro-L-leucine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C(F)(F)F)C(=O)O | C14H16F3NO4
